US07932272B2
5-(5-Methyl-thiophen-2-ylmethyl)-thiophene-2-carbaldehyde
Sodium iodide (6.4 g, 42.6 mmol) and trimethylsilyl chloride (4.6 g, 42.6 mmol) were suspended in acetonitrile (100 mL) on an ice bath, and (5-[1,3]dioxolane-2-ylthiophen-2-yl)-(5-methyl-thiophen-2-yl)-methanol described in Preparation Example 65 (2.0 g, 7.09 mmol) was added dropwise. After dropwise addition was completed, the reaction solution was gradually allowed to room temperature. A solution obtained by dissolving an aqueous solution of 2N sodium hydroxide (10.6 mL) and sodium thiosulfate pentahydrate (530 mg, 2.13 mmol) in water (5 mL) was added to the reaction solution that had been cooled on an ice bath, and the solution was stirred. Water and ethyl acetate were added to the reaction solution, which was then partitioned, and the organic layer was concetrated in vacuo. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=20:1), and the title compound (790 mg, 3.56 mmol, 50.2%) was obtained as a brown oil.

reactant | Sodium iodide | 42.6 mmol, 6.4 g | [I-].[Na+]
reactant | trimethylsilyl chloride | 42.6 mmol, 4.6 g | C[Si](C)(C)Cl | C3H9ClSi
reactant | (5-[1,3]dioxolane-2-ylthiophen-2-yl)-(5-methyl-thiophen-2-yl)-methanol | O1C(OCC1)C1=CC=C(S1)C(O)C=1SC(=CC1)C | C13H14O3S2
reactant | sodium hydroxide | 2N, 10.6 mL | [OH-].[Na+]
reactant | sodium thiosulfate pentahydrate | 2.13 mmol, 530 mg | O.O.O.O.O.S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | acetonitrile | 100 mL | C(C)#N | C2H3N
solvent | water | 5 mL | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-(5-Methyl-thiophen-2-ylmethyl)-thiophene-2-carbaldehyde | 3.56 mmol, 790 mg, 50.2% | CC1=CC=C(S1)CC1=CC=C(S1)C=O | C11H10OS2
